US08431575B2
(±)-cis-4-({[6-Butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carbonyl]-amino}-methyl)-3-fluoro-piperidine-1-carboxylic acid tert-butyl ester (0.47 mmol, 266 mg) was stirred in 4 M HCl/dioxane (2 mL) for 20 min at room temperature. The solvent was evaporated to provide (±)-cis-6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carboxylic acid (3-fluoro-piperidin-4-ylmethyl)-amide dihydrochloride. The crude product was used without further purification.

reactant | (±)-cis-4-({[6-Butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carbonyl]-amino}-methyl)-3-fluoro-piperidine-1-carboxylic acid tert-butyl ester | 0.47 mmol, 266 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)CNC(=O)C=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC)F | C32H45FN4O4
reactant | HCl dioxane | 4 M, 2 mL | Cl.O1CCOCC1
product | (±)-cis-6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carboxylic acid (3-fluoro-piperidin-4-ylmethyl)-amide dihydrochloride | Cl.Cl.F[C@@H]1CNCC[C@@H]1CNC(=O)C=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC | InChI=1S/C27H37FN4O2.2ClH/c1-2-3-9-25-23(19-10-12-22(13-11-19)34-21-7-5-4-6-8-21)16-26(32-31-25)27(33)30-17-20-14-15-29-18-24(20)28;;/h10-13,16,20-21,24,29H,2-9,14-15,17-18H2,1H3,(H,30,33);2*1H/t20-,24-;;/m1../s1
